US04816454
4-((2-Oxo-pyrrolidin-1-yl)-phenyl)-4-oxo-3-methyl-2-butenoic acid
66.7 g (0.5 mole) of anhydrous aluminum chloride are suspended in 150 ml of carbon disulphide. 32.2 g (0.2 mole) of N-phenyl-pyrrolidin-2-one and 22.4 g (0.2 mole) of methylmaleic anhydride are added, while stirring and cooling. The mixture is heated under reflux until a viscous mass is formed, and this is left to stand at room temperature for 40 hours, the solvent is decanted off and the mixture is decomposed carefully with icewater and concentrated aqueous hydrochloric acid and extracted with methylene cchloride or ethyl acetate. The organic phase is extracted with dilute sodium hydroxide solution, the aqueous phase is clarified by filtration, acidified with acetic acid and extracted and the extract is concentrated. The resulting oil is further reacted directly.

reactant | aluminum chloride | 0.5 mole, 66.7 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | N-phenyl-pyrrolidin-2-one | 0.2 mole, 32.2 g | C1(=CC=CC=C1)N1C(CCC1)=O | C10H11NO
reactant | methylmaleic anhydride | 0.2 mole, 22.4 g | C/C=1/C(=O)OC(\C1)=O | C5H4O3
solvent | carbon disulphide | 150 ml | C(=S)=S | CS2
product | 4-((2-Oxo-pyrrolidin-1-yl)-phenyl)-4-oxo-3-methyl-2-butenoic acid | O=C1N(CCC1)C1=C(C=CC=C1)C(C(=CC(=O)O)C)=O | C15H15NO4
